US04921852
To a solution of (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-thiocarbamoylpyrrolidine (2.0 g) in dichloromethane (40 ml) was added a solution of ethyl bromopyruvate (1.04 ml) in absolute ethanol (10 ml) at 0° C. After stirring at room temperature for 2 hours, the mixture was evaporated. The residue was dissolved in ethyl acetate, and washed with saturated sodium bicarbonate and brine successively. The dried organic layer was evaporated and the residue was dissolved in tetrahydrofuran (15 ml) and 1N sodium hydroxide (15 ml). After stirring at 35°-45° C. for 1 hour, the mixture was evaporated and poured into ethyl acetate. To this mixture was added 1N hydrochloric acid (20 ml), and then organic layer was separated, and washed with brine. The dried organic layer was evaporated to give (2S,4R)-2-(4-carboxythiazol-2-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.54 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-thiocarbamoylpyrrolidine | 2.0 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(N)=S | C14H17N3O7S2
reactant | ethyl bromopyruvate | 1.04 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2S,4R)-2-(4-carboxythiazol-2-yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.54 g | C(=O)(O)C=1N=C(SC1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N3O9S2
